US04288436
Phosphorus oxychloride (1.01 g.) was added under ice-cooling to dry dimethylformamide (0.48 g.) and the mixture was stirred for 30 minutes at 40° C. Dry ethyl acetate (20 ml.) was added thereto and to the suspension was added at 0° to 5° C. 2-methoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid (syn isomer) (1.26 g.), after which the resulting mixture was vigorously stirred for 30 minutes at the same temperature to give clear yellow solution. On the other hand, trimethylsilylacetamide (6.6 g.) was added to a suspension of 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.74 g.) in dry ethyl acetate (60 ml.) and the mixture was stirred at ambient temperature to give a clear solution. To this solution was at a time added the above-obtained ethyl acetate solution with stirring at -20° C., and the resulting mixture was stirred for 2 hours at the same temperature. Water (70 ml.) and ethyl acetate (140 ml.) were added thereto and the mixture was shaken. The organic layer was separated and extracted with a sodium bicarbonate aqueous solution (80 ml.). To the aqueous extract was added ethyl acetate (100 ml.) and the mixture was adjusted to pH 1.5 with conc. hydrochloric acid and thereafter shaken. The ethyl acetate layer was separated, washed with a sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off and the residue was washed with ether, collected by filtration and dried to give 7-[2-methoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.12 g.).

reactant | Phosphorus oxychloride | 1.01 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid | 1.26 g | CON=C(C(=O)O)C=1N=C(SC1)NC=O | C7H7N3O4S
reactant | trimethylsilylacetamide | 6.6 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.74 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O | C11H12N6O5S2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 70 ml | O | H2O
solvent | dimethylformamide | 0.48 g | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.12 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C18H17N9O8S3
